US05688798
A suspension of 0.95 g (0.0050 mol) of 5-chloromethyl-2-methyl-pyrimidin-4-ylamine in 13 ml of dimethylformamide was treated with 3.5 ml (0.025 mol) of triethylamine and 1.16 g (0.010) of 4-ethyl-1,2,3,6-tetrahydropyridine and the mixture was stirred at room temperature under argon for 18 hours. The solvent was distilled off in a high vacuum. The residue was partitioned between dichloromethane/water, extracted and dried over MgSO4. After removing the solvent the residue was chromatographed on silica gel with ethyl acetate as the eluent. 0.60 g (52%) of 5-(4-ethyl-3,6-dihydro-2H-pyridin-1-ylmethyl)-2-methyl-pyrimidin-4-ylamine were obtained as a beige solid; m.p. 75°-76°.

reactant | 5-chloromethyl-2-methyl-pyrimidin-4-ylamine | 0.0050 mol, 0.95 g | ClCC=1C(=NC(=NC1)C)N | C6H8ClN3
reactant | triethylamine | 0.025 mol, 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | 4-ethyl-1,2,3,6-tetrahydropyridine | 1.16 g | C(C)C=1CCNCC1 | C7H13N
solvent | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | 5-(4-ethyl-3,6-dihydro-2H-pyridin-1-ylmethyl)-2-methyl-pyrimidin-4-ylamine | 0.60 g, 52% | C(C)C=1CCN(CC1)CC=1C(=NC(=NC1)C)N | C13H20N4
